US05428046
3-Pentyl 5-[((phenylsulfonyl)amino)carbonyl]-pyridine-2-carboxylate
5 drops of concentrated sulfuric acid were added to 0.9 g (2.94 mmol) of 5-[((phenylsulfonyl)amino)carbonyl]-pyridine-2-carboxylate in 30 ml of 3-pentanol, while stirring, and the mixture was heated at 90° C. for 6 hours. The excess 3-pentanol was distilled off in vacuo and the residue was treated with ethyl acetate. The crystalline crude product was combined with the product obtained from the mother liquor by purification by column chromatography (melting point 186° to 187° C.), treated with hot ethyl acetate, cooled, filtered off with suction and washed with ethyl acetate. This gave 0.55 g of the colorless title compound, melting point 182° to 183° C.

reactant | 5-[((phenylsulfonyl)amino)carbonyl]-pyridine-2-carboxylate | 2.94 mmol, 0.9 g | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C=CC(=NC1)C(=O)[O-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 3-pentanol | 30 ml | CCC(CC)O | C5H12O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 3-Pentyl 5-[((phenylsulfonyl)amino)carbonyl]-pyridine-2-carboxylate | C1(=CC=CC=C1)S(=O)(=O)NC(=O)C=1C=CC(=NC1)C(=O)OC(CC)CC | C18H20N2O5S
